* File: XOR2D8.cdl.pex
* Created: Thu Jan 16 00:33:32 2025
* Program "Calibre xRC"
* Version "v2023.1_18.8"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_XOR2D8%IN2 3 6 11 14 17 21 25 29 39 45 46 50 53 54 55 62 63 64 67 68
+ 75 77 78 80 81 82 87
c106 87 0 0.0145119f
c107 82 0 0.0446352f
c108 81 0 0.306587f
c109 80 0 0.315123f
c110 78 0 0.279881f
c111 77 0 0.527673f
c112 75 0 0.0407576f
c113 68 0 0.244678f
c114 67 0 0.254057f
c115 64 0 0.755071f
c116 63 0 0.561041f
c117 62 0 0.560637f
c118 55 0 0.0233621f
c119 54 0 0.564874f
c120 53 0 0.07747f
c121 50 0 0.702847f
c122 46 0 0.058526f
c123 45 0 0.325832f
c124 29 0 0.851171f
c125 25 0 0.851857f
c126 21 0 0.854473f
c127 17 0 0.406689f
c128 6 0 1.06795f
c129 3 0 0.28336f
r130 80 81 1.35333
r131 79 82 0.0417772
r132 79 80 1.35333
r133 78 87 0.0417772
r134 78 81 1.35333
r135 74 87 0.0233333
r136 67 82 0.0233333
r137 67 68 0.512484
r138 63 77 9.66667
r139 62 63 9.66667
r140 61 62 9.66667
r141 55 75 0.282372
r142 54 61 1
r143 53 74 0.92349
r144 53 75 0.666667
r145 46 71 0.831548
r146 45 50 0.831548
r147 45 70 3.58333
r148 42 71 0.049177
r149 42 68 2.58333
r150 39 70 0.387484
r151 39 67 0.125
r152 29 54 5
r153 25 29 10.5
r154 21 25 10.5
r155 17 21 10.5
r156 17 55 5
r157 14 64 0.125
r158 14 77 0.407372
r159 14 64 4.875
r160 11 50 5
r161 3 6 10.5
r162 3 46 5
.ends

.subckt PM_XOR2D8%net25 1 2 25 28 31 34 37 51 54 57 58 59 61 62 63 67 69 70 71
+ 76 77 83 86 87 88 89 90 107 117 119 121 122 127
c133 127 0 0.163265f
c134 122 0 0.0300585f
c135 121 0 0.0327328f
c136 119 0 0.0376027f
c137 117 0 0.0388532f
c138 107 0 0.413163f
c139 90 0 0.0240728f
c140 89 0 0.192154f
c141 88 0 0.0586866f
c142 87 0 0.514017f
c143 86 0 0.0142692f
c144 83 0 0.0626247f
c145 77 0 0.0514087f
c146 76 0 0.069474f
c147 71 0 0.27429f
c148 70 0 0.604682f
c149 69 0 0.784395f
c150 67 0 0.605582f
c151 63 0 0.401291f
c152 62 0 0.548321f
c153 61 0 0.548143f
c154 59 0 0.548988f
c155 58 0 0.514366f
c156 57 0 0.483998f
c157 54 0 0.308934f
c158 51 0 0.734621f
c159 37 0 0.843132f
c160 34 0 0.401291f
c161 28 0 0.493362f
c162 25 0 0.259682f
c163 2 0 0.431052f
c164 1 0 0.274236f
r165 119 131 0.0417772
r166 119 127 0.14
r167 117 122 0.0417772
r168 117 121 0.14
r169 107 121 0.0684127
r170 97 127 0.0684127
r171 87 88 0.375
r172 83 131 0.0233333
r173 83 85 0.488662
r174 80 122 0.0233333
r175 77 80 0.166667
r176 75 91 0.049177
r177 75 76 2.33333
r178 71 91 0.831548
r179 69 70 14.5
r180 69 90 14.5
r181 67 76 0.279364
r182 67 70 14.5
r183 64 89 0.071516
r184 63 90 0.282372
r185 61 62 10.305
r186 61 88 10.305
r187 59 89 0.473684
r188 59 62 10.3067
r189 58 87 9.69667
r190 57 58 9.69333
r191 56 86 0.211723
r192 56 57 9.69333
r193 54 86 0.055023
r194 54 85 3.83333
r195 52 77 0.298409
r196 51 86 0.211723
r197 51 52 12.5
r198 37 63 5
r199 34 37 10.5
r200 34 64 5
r201 31 107 0.0661111
r202 28 71 5
r203 25 28 10.5
r204 2 97 0.0661111
r205 1 2 0.233333
.ends

.subckt PM_XOR2D8%net23 1 2 23 24 45 48 51 52 55 59 63 67 97 103 104 107 110 112
+ 117 132 142 144 145 146 147 148 159 161 162 163 164 165 166 167 170 194 201
c170 201 0 0.215406f
c171 194 0 0.0808771f
c172 193 0 0.0393566f
c173 188 0 0.00640079f
c174 170 0 0.052874f
c175 167 0 0.423741f
c176 166 0 0.422282f
c177 165 0 0.419609f
c178 164 0 0.423299f
c179 163 0 0.0291596f
c180 162 0 0.423674f
c181 161 0 0.0909759f
c182 159 0 0.133968f
c183 148 0 0.0250009f
c184 147 0 0.395164f
c185 146 0 0.415339f
c186 145 0 0.490467f
c187 144 0 0.161174f
c188 142 0 0.371479f
c189 132 0 0.0250009f
c190 131 0 0.00742492f
c191 129 0 0.235782f
c192 117 0 0.0662677f
c193 112 0 0.0348574f
c194 110 0 0.0325263f
c195 107 0 0.0680004f
c196 104 0 0.174387f
c197 103 0 0.530717f
c198 97 0 0.0220135f
c199 67 0 1.15936f
c200 63 0 0.72992f
c201 59 0 0.730094f
c202 55 0 0.34749f
c203 52 0 0.28611f
c204 51 0 0.721402f
c205 48 0 0.338798f
c206 45 0 0.227136f
c207 24 0 0.566168f
c208 23 0 0.335711f
c209 2 0 0.526243f
c210 1 0 0.202557f
r211 168 170 0.0399111
r212 168 201 0.13
r213 166 167 1.582
r214 165 166 1.582
r215 164 165 1.582
r216 163 164 1.582
r217 162 194 0.0417772
r218 162 167 1.582
r219 161 163 0.039111
r220 160 193 0.0296412
r221 160 161 0.198333
r222 159 193 0.0296412
r223 159 192 0.501667
r224 146 147 1.69867
r225 145 146 1.69867
r226 144 145 1.69867
r227 143 188 0.00770322
r228 143 144 1.69867
r229 142 193 0.00770322
r230 142 147 1.69867
r231 131 148 0.0534439
r232 130 188 0.0296412
r233 130 131 0.0816667
r234 129 188 0.0296412
r235 128 132 0.0534439
r236 128 129 0.385
r237 117 201 0.0386436
r238 114 194 0.0233333
r239 110 192 0.0684127
r240 107 110 0.166667
r241 103 117 0.769641
r242 97 112 0.282372
r243 96 107 0.298409
r244 96 112 0.666667
r245 63 67 10.5
r246 59 63 10.5
r247 55 59 10.5
r248 55 97 5
r249 52 170 0.0466667
r250 51 103 5
r251 48 104 0.166203
r252 48 114 0.594406
r253 48 51 10.375
r254 48 104 4.875
r255 45 148 0.0777778
r256 23 24 0.233333
r257 23 52 0.256667
r258 1 2 0.233333
r259 1 132 0.0777778
.ends

.subckt PM_XOR2D8%net26 1 2 25 28 33 36 39 40 41 44 47 48 59 70 81 128 129 135
+ 141 159 179 180 198 200 202 219 222 223 224 225 226
c113 226 0 0.321527f
c114 225 0 0.0483765f
c115 224 0 0.0664265f
c116 223 0 0.0499021f
c117 222 0 0.165875f
c118 219 0 0.0499801f
c119 202 0 0.116752f
c120 200 0 0.0581753f
c121 198 0 0.114285f
c122 180 0 0.0508665f
c123 179 0 0.176003f
c124 159 0 0.200878f
c125 141 0 0.0633637f
c126 135 0 0.235102f
c127 129 0 0.112392f
c128 128 0 0.321383f
c129 81 0 0.216775f
c130 70 0 0.379266f
c131 59 0 0.466555f
c132 48 0 0.247282f
c133 47 0 0.966011f
c134 44 0 0.281198f
c135 41 0 0.38896f
c136 40 0 0.397264f
c137 39 0 0.210411f
c138 36 0 1.00214f
c139 33 0 0.613771f
c140 28 0 0.605969f
c141 25 0 0.288412f
c142 2 0 0.410749f
c143 1 0 0.432164f
r144 223 224 0.13
r145 221 222 0.7
r146 219 221 0.039111
r147 219 226 0.116667
r148 202 225 0.0684127
r149 201 226 0.0684127
r150 200 225 0.163333
r151 197 200 0.039111
r152 197 198 0.186667
r153 180 224 0.0386436
r154 179 198 0.0534439
r155 159 223 0.0386436
r156 141 222 0.0684127
r157 141 142 0.428571
r158 129 139 0.831548
r159 128 142 0.234737
r160 127 139 0.049177
r161 127 128 6.5
r162 81 159 0.0661111
r163 70 81 0.233333
r164 59 70 0.233333
r165 48 59 0.233333
r166 44 135 0.162499
r167 44 142 0.535714
r168 44 47 10.375
r169 44 135 4.875
r170 41 202 0.0661111
r171 40 179 0.0777778
r172 39 40 0.233333
r173 39 180 0.0661111
r174 33 36 10.5
r175 28 33 10.5
r176 25 28 10.5
r177 25 129 5
r178 2 201 0.0661111
r179 1 2 0.233333
r180 1 41 0.256667
.ends

.subckt PM_XOR2D8%IN1 3 6 11 15 19 23
c14 23 0 0.699051f
c15 19 0 0.112769f
c16 15 0 0.842098f
c17 6 0 0.944779f
c18 3 0 0.288412f
r19 19 25 0.831548
r20 17 23 0.831548
r21 16 25 0.049177
r22 15 17 3.08333
r23 15 16 4.58333
r24 11 23 5
r25 3 6 10.5
r26 3 19 5
.ends

.subckt PM_XOR2D8%VSS 1 2 23 24 45 46 67 68 89 100 111 122 181 217 218 219 220
c81 220 0 1.73062f
c82 219 0 1.73427f
c83 218 0 1.79827f
c84 217 0 1.78189f
c85 122 0 2.08597f
c86 111 0 1.46007f
c87 100 0 1.46042f
c88 89 0 1.39461f
c89 68 0 4.87032f
c90 67 0 1.46042f
c91 46 0 1.46007f
c92 45 0 1.73298f
c93 24 0 1.46042f
c94 23 0 1.63245f
c95 2 0 1.46042f
c96 1 0 1.57415f
r97 219 220 0.448
r98 218 219 0.448
r99 217 218 0.448
r100 122 217 0.448
r101 111 122 0.14
r102 100 111 0.14
r103 89 100 0.14
r104 89 181 0.168
r105 67 68 0.14
r106 46 67 0.14
r107 45 46 0.14
r108 45 220 0.448
r109 24 181 0.116667
r110 23 24 0.14
r111 2 23 0.182
r112 1 2 0.14
.ends

.subckt PM_XOR2D8%VDD 1 2 3 4 5 6 43 57 66 67 68 69 86 87 88 89
c73 89 0 1.14584f
c74 88 0 1.14546f
c75 87 0 1.14584f
c76 86 0 1.10637f
c77 69 0 1.77526f
c78 68 0 1.77168f
c79 67 0 1.78232f
c80 66 0 1.7957f
c81 57 0 1.58556f
c82 6 0 8.27416f
c83 5 0 1.10501f
c84 4 0 2.39892f
c85 3 0 1.75722f
c86 2 0 1.70386f
c87 1 0 1.57365f
r88 88 89 0.2828
r89 87 88 0.2828
r90 86 87 0.2828
r91 68 69 0.457333
r92 67 68 0.457333
r93 66 67 0.457333
r94 56 57 0.191333
r95 5 6 0.14
r96 5 89 0.2828
r97 4 86 0.2828
r98 3 4 0.14
r99 3 69 0.457333
r100 2 66 0.457333
r101 2 57 0.191333
r102 1 56 0.191333
r103 1 43 0.0233333
r104 1 43 0.0606667
.ends

.subckt PM_XOR2D8%net27 1 14 27 40
c30 40 0 0.542062f
c31 27 0 0.505943f
c32 14 0 0.278315f
c33 1 0 0.228325f
r34 27 40 0.233333
r35 14 27 0.233333
r36 1 14 0.233333
.ends

.subckt PM_XOR2D8%net24 1 3
c19 3 0 0.513036f
c20 1 0 0.261985f
r21 1 3 0.233333
.ends

.subckt PM_XOR2D8%OUT 1 2 23 24 45 46 75 76 77
c27 77 0 0.112842f
c28 76 0 0.114362f
c29 75 0 0.426231f
c30 46 0 0.58693f
c31 45 0 0.126254f
c32 24 0 1.03529f
c33 23 0 0.55853f
c34 2 0 0.435105f
r35 75 77 0.021
r36 75 76 0.01925
r37 45 77 0.0118029
r38 45 95 0.0524574
r39 45 46 0.233333
r40 45 95 0.07
r41 23 24 0.233333
r42 2 23 0.233333
r43 1 76 0.0118029
r44 1 79 0.0524574
r45 1 2 0.233333
r46 1 79 0.07
.ends

